US08663957B2
Alternative routes for producing a cyclic compound from 3-hydroxypimeloyl-CoA that do not proceed through pimeloyl-CoA are shown in FIG. 3. This route is found in Geobacter metallireducens and Thauera aromatica, among others, in the direction of beta-oxidation. In the route, the biosynthesis of 3-hydroxypimelyl-CoA proceeds from acetoacetyl-CoA, as described above. 3-Hydroxypimeloyl-CoA is dehydrated to form a cyclic product, 6-oxocylohex-1-ene-1-carboxyl-CoA (6-KCH-CoA). 6-KCH-CoA is then converted to cyclohexanone in three enzymatic steps: removal of the CoA moiety, decarboxylation and reduction. With a reversible PEP carboxykinase, this pathway is predicted to achieve a theoretical yield of cyclohexanone (0.75 mol/mol) and is able to achieve an ATP yield of 0.56 mol/mol if a transferase or ATP synthase is utilized in step 2.

reactant | pimeloyl-CoA | C(CCCCCC(=O)O)(=O)SCCNC(CCNC([C@@H](C(COP(OP(OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)OP(=O)(O)O)(=O)O)(=O)O)(C)C)O)=O)=O | C28H46N7O19P3S
reactant | 3-hydroxypimelyl-CoA | OC(CC(=O)SCCNC(CCNC([C@@H](C(COP(OP(OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)OP(=O)(O)O)(=O)O)(=O)O)(C)C)O)=O)=O)CCCC(=O)O | C28H46N7O20P3S
reactant | acetoacetyl-CoA | C(CC(=O)C)(=O)SCCNC(CCNC([C@@H](C(COP(OP(OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)OP(=O)(O)O)(=O)O)(=O)O)(C)C)O)=O)=O | C25H40N7O18P3S
product | 6-oxocylohex-1-ene-1-carboxyl-CoA | CC(C)(COP(=O)(O)OP(=O)(O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N2C=NC3=C2N=CN=C3N)O)OP(=O)(O)O)C(C(=O)NCCC(=O)NCCSC(=O)C4=CCCCC4=O)O | C28H42N7O18P3S
